US04256739
A solution of 53 mg of 3-methylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid p-nitrobenzyl ester in 5 ml of a warm 2:1 mixture of tetrahydrofurane and methanol is added to a mixture, which has been prehydrogenated for 30 minutes in a hydrogenation apparatus, of 51 mg of 5% strength palladium-on-charcoal catalyst in 1 ml of tetrahydrofurane/methanol, 1:1, and the mixture is hydrogenated for 4 hours whilst stirring. The solution is filtered, the catalyst is washed with 4 times 6 ml of ethyl acetate and the filtrate and the washing liquid are evaporated in vacuo. The residue is dissolved in methylene chloride and extracted with dilute aqueous sodium bicarbonate solution. The aqueous phase is extracted by shaking three times with methylene chloride and the yellow oil of the intermediate layer is discarded. The aqueous bicarbonate solution is cooled in an ice bath, covered with ethyl acetate and acidified to about pH 2 with 2 N hydrochloric acid. The organic phase is separated off, the yellow oil of the intermediate layer is again discarded and the aqueous phase is extracted with methylene chloride. The combined ethyl acetate and methylene chloride phases are washed with water, dried over sodium sulphate and evaporated in vacuo. The residue is recrystallised from methylene chloride/diethyl ether and gives 3-methylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid of melting point 122°-125° C.; IR spectrum (KBr): characteristic bands at 5.64; 5.95; 6.25; 6.55; 6.70; 8.20; 8.58; 8.94 and 13.25μ.

reactant | 3-methylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid p-nitrobenzyl ester | 53 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)SC)C=C1 | C23H21N3O7S2
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
reactant | methanol | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | tetrahydrofurane methanol | 1 ml | O1CCCC1.CO
product | 3-methylthio-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid | CSC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C16H16N2O5S2
